US04284720
Under the conditions of Example 1, 10 g. of megestrol (17α-hydroxy-6-methyl-4,6-pregnadiene-3,20-dione), dissolved in 400 ml. of dimethylformamide, is fermented for 48 hours with a Nigrospora sphaerica culture. After the batch has been worked up and the crude product crystallized from acetone/diisopropyl ether, 6.5 g. of 17α,19-dihydroxy-6-methyl-4,6-pregnadiene-3,20-dione is obtained, m.p. 184°-186° C.

reactant | megestrol | CC1=C[C@@H]2[C@H](CC[C@]3([C@H]2CC[C@@]3(C(=O)C)OC(=O)C)C)[C@@]4(C1=CC(=O)CC4)C | C24H32O4
reactant | dimethylformamide | CN(C=O)C | C3H7NO
product | 17α,19-dihydroxy-6-methyl-4,6-pregnadiene-3,20-dione | O[C@]1(C(C)=O)CC[C@H]2[C@@H]3C=C(C4=CC(CC[C@]4(CO)[C@H]3CC[C@]12C)=O)C | C22H30O4
